US07141574B2
Methyl-2-bromo-3-cyclohexyl-6-indole carboxylate
Adapting the procedure of L. Chu (Tet. Lett. 1997, 38, 3871) methyl,3-cyclohexyl-6-indole carboxylate (4.65 g, 18.07 mmol) was dissolved in a mixture of THF (80 mL) and CHCl3 (80 mL). The solution was cooled in an ice bath and pyridinium bromide perbromide (pyridine tribromide, 7.22 g, 22.6 mmol, 1.25 equivalent) was added. After stirring for 1.5 h at 0° C., the reaction was judged complete by TLC. It was diluted with CHCl3 (200 mL), washed with 1M NaHSO3 (2×50 mL), saturated aqueous NaHCO3 (2×50 mL) and brine (50 mL). After drying over Na2SO4, the solvent was removed under reduced pressure and the residue crystallized from TBME-hexane. The desired 2-bromoindole derivative was collected by filtration, washed with hexane and dried (3.45 g). Evaporation of mother liquors gave a red solid that was purified by flash chromatography using 15% EtOAc in hexane yielding an additional 3.62 g of pure material. Total yield was 5.17 g (85% yield).

reactant | methyl,3-cyclohexyl-6-indole carboxylate | 18.07 mmol, 4.65 g | COC(=O)C1=CC=C2C(=CNC2=C1)C1CCCCC1 | C16H19NO2
reactant | pyridinium bromide perbromide | 22.6 mmol, 7.22 g, 1.25 equivalent | C1=CC=[NH+]C=C1.Br[Br-]Br
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | CHCl3 | 80 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | Methyl-2-bromo-3-cyclohexyl-6-indole carboxylate | 85% yield | COC(=O)C1=CC=C2C(=C(NC2=C1)Br)C1CCCCC1 | C16H18BrNO2
